### ISSUE TITLE
Recursion fails with a strange error message about universes

### ISSUE THREAD

**Issue by JasonGross** [leanprover/lean3#1620]
```lean
universes u v
inductive let_inM : Sort u → Sort (u+1)
| ret : Π {A : Sort u} , A → let_inM A
| bind : Π {A : Sort u} {B : Sort u} , let_inM A → (A → let_inM B) → let_inM B

def denote_let_inM : Π {A : Sort u} , let_inM A → A
| A (@let_inM.ret ._ v) := v
| B (@let_inM.bind A ._ v f) := let v' := @denote_let_inM A v in @denote_let_inM B (f v')
/-
-*- mode: compilation; default-directory: "~/Documents/repos/lean-playgorund/" -*-
Compilation started at Tue May 30 16:06:24

/home/jgross/Documents/repos/lean/bin/lean  /home/jgross/Documents/repos/lean-playgorund/test2.lean
/home/jgross/Documents/repos/lean-playgorund/test2.lean:6:4: error: invalid equations, when trying to recurse over reflexive inductive datatype 'let_inM' (argument #2) the universe level of the resultant universe must be zero OR not zero for every level assignment (possible solutions: provide universe levels explicitly, or force well_founded recursion by using `using_well_founded` keyword)

Compilation exited abnormally with code 1 at Tue May 30 16:06:25
-/
```
If I replace `u` with `1` and `u+1` with `2`, it goes through.  Similarly, if I replace `u` with `(u+1)`, it goes through.  I'm confused what makes the equation invalid...  (And should there be a warning at the datatype definition time?)

**Comment by leodemoura** [comment]
Yes, the error message is not good. The equation compiler currently uses three different strategies:
- Course of values recursion
- Well founded recursion
- Unbounded recursion (for meta definitions).

For course of values recursion, we use an auxiliary recursor (`brec_on`) that is automatically generated.
Reflexive types such as `let_inM` complicate the generation of the this recursor because of impredicativity. Given `A : Sort u` and `B : A -> Sort v`, the type of `Pi (a : A), B a` is `Sort (imax u v)`, where `imax u v = 0` if `v = 0`, and `imax u v = max u v` otherwise. Thus, we have
1- `imax u 0 = 0`
2- `imax u (succ v) = max u (succ v)`
These two identities simplify the generation of `brec_on` for inductive datatypes such as `let_inM`.
To be able to use these identities we generate two versions of `brec_on`:
- `binduction_on` which can eliminate only into `Prop`, and where we can use identity (1) to simplify the construction, and
- `brec_on` which can eliminate only into data, and where we can use identity (2) to simplify the construction.

When the equation compiler tries to compile `denote_let_inM`, it has to decide which recursor (`binduction` or `brec_on`) to use. Since the result type may be a proposition `u = 0` or not `u > 0`, it produces an error message. The following two variants work 
```lean
namespace in_Prop
lemma denote_let_inM : Π {A : Sort 0} , let_inM A → A
| A (@let_inM.ret ._ v)      := v
| B (@let_inM.bind A ._ v f) := let v' := @denote_let_inM A v in @denote_let_inM B (f v')
end in_Prop

namespace in_data
def denote_let_inM : Π {A : Sort (u+1)} , let_inM A → A
| A (@let_inM.ret ._ v)      := v
| B (@let_inM.bind A ._ v f) := let v' := @denote_let_inM A v in @denote_let_inM B (f v')
end in_data
```
because in the first case the equation compiler uses `binduction_on` and in the second it uses `brec_on`.

That being said, course of values recursion is an overkill for this definition. The kernel primitive recursor `rec` can be used to compile it. However, we have not implemented this compilation strategy yet. 
This is currently on the TODO list: https://github.com/leanprover/lean/issues/1611

In the meantime, you can use the tactic framework to define `def denote_let_inM : Π {A : Sort u} , let_inM A → A`.
```lean
def denote_let_inM {A : Sort u} (e : let_inM A) : A :=
begin
  induction e,
  case let_inM.ret A v { exact v },
  case let_inM.bind A B v f ih_1 ih_2 { exact ih_2 ih_1 }
end
```
or use the recursor directly:
```lean
def denote_let_inM {A : Sort u} (e : let_inM A) : A :=
let_inM.rec 
  (λ A v, v)
  (λ A B v f ih_1 ih_2, ih_2 ih_1)
  e
```
